US06057304
Under an N2 stream and exclusion of moisture, 1.03 g (5 millimoles) of 6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline is combined with 50 ml of dimethylformamide at room temperature. To this mixture is added 330 mg (11 mmol) of sodium hydride (80% strength) in 3 portions. The mixture is then stirred for one hour at room temperature. To this mixture is added dropwise 1.26 g (5.5 mmol) of 3-bromomethylbenzoic acid methyl ester in 5 ml of dimethylformamide, and the mixture is further stirred for 3 1/2 hours. After concentration, the residue is distributed in acetic water/ethyl acetate. The organic phase is separated, dried, filtered and concentrated. The residue is chromatographed over silica gel with dichloromethan ethanol=95:5, thus obtaining, besides 211 mg of 3-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl-methyl) benzoic acid methyl ester, which is not further purified, also 222 mg of 3-(7-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-ylmethyl)benzoic acid methyl ester, mp: 265-267° C.

reactant | 6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxaline | 5 millimoles, 1.03 g | [N+](=O)([O-])C=1C=C2NC(C(NC2=CC1)=O)=O | C8H5N3O4
reactant | sodium hydride | 11 mmol, 330 mg | [H-].[Na+]
reactant | 3-bromomethylbenzoic acid methyl ester | 5.5 mmol, 1.26 g | COC(C1=CC(=CC=C1)CBr)=O | C9H9BrO2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(6-nitro-2,3-dioxo-1,2,3,4-tetrahydroquinoxalin-1-yl-methyl) benzoic acid methyl ester | 211 mg | COC(C1=CC(=CC=C1)CN1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)=O)=O | C17H13N3O6
